### PR TITLE
[Merged by Bors] - feat(Algebra/Algebra/Equiv): `f.conj (mulLeft R x) = mulLeft R (f x)`

### PR DESCRIPTION
**Pull request by themathqueen**
for algebra equivalence `f`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -549,6 +549,18 @@ theorem trans_toLinearMap (f : A₁ ≃ₐ[R] A₂) (g : A₂ ≃ₐ[R] A₃) :
...
+    f.toLinearEquiv.conj (.mulLeft R x) = .mulLeft R (f x) := by
+  ext; simp [LinearEquiv.conj_apply]
+
+theorem linearEquivConj_mulRight (f : A₁ ≃ₐ[R] A₂) (x : A₁) :
+    f.toLinearEquiv.conj (.mulRight R x) = .mulRight R (f x) := by
+  ext; simp [LinearEquiv.conj_apply]
+
+theorem linearEquivConj_mulLeftRight (f : A₁ ≃ₐ[R] A₂) (x y : A₁) :
+    f.toLinearEquiv.conj (.mulLeftRight R (x, y)) = .mulLeftRight R (f x, f y) := by
+  ext; simp [LinearEquiv.conj_apply]
```
Comment (Komyyy) [inline Mathlib/Algebra/Algebra/Equiv.lean]: Can you attribute these as `@[simp]`?

Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: or instead
```suggestion
theorem linearEquivConj_mulLeftRight (f : A₁ ≃ₐ[R] A₂) (x : A₁ × A₁) :
    f.toLinearEquiv.conj (.mulLeftRight R x) = .mulLeftRight R (f.prodCongr f x) := by
  cases x; ext; simp [LinearEquiv.conj_apply]
```

**Review by Komyyy — COMMENTED** [review]
I think this is good PR! Thank you!

<details>

<summary>For reviewers & maintainers: What I checked</summary>

1. I checked these lemmas are not yet in Mathlib [by Loogle](https://loogle.lean-lang.org/?q=LinearEquiv.conj%2C+%7C-+_+%3D+_).
2. I checked these lemmas can't be proved by simply unfolding `LinearEquiv.conj`.
3. I tried to generalize these lemma for `LinearEquiv.arrowCongr` because `LinearEquiv.conj` is the specialized one, but I realized the generalized lemma is worthless.
4. I considered whether we should attribute `LinearEquiv.conj_apply` as `@[simp]`, and realized we should attribute `LinearEquiv.conj_apply_apply` instead, but I concluded it should be done on another PR.
</details>

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/Algebra/Algebra/Equiv.lean]: I think it's better to use `Prod.map` on RHS, because it's a simp-normal form.
```suggestion
theorem linearEquivConj_mulLeftRight (f : A₁ ≃ₐ[R] A₂) (x : A₁ × A₁) :
    f.toLinearEquiv.conj (.mulLeftRight R x) = .mulLeftRight R (Prod.map f f x) := by
  cases x; ext; simp [LinearEquiv.conj_apply]
```

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 2]
```diff
@@ -549,6 +549,18 @@ theorem trans_toLinearMap (f : A₁ ≃ₐ[R] A₂) (g : A₂ ≃ₐ[R] A₃) :
...
+    f.toLinearEquiv.conj (.mulLeft R x) = .mulLeft R (f x) := by
+  ext; simp [LinearEquiv.conj_apply]
+
+theorem linearEquivConj_mulRight (f : A₁ ≃ₐ[R] A₂) (x : A₁) :
+    f.toLinearEquiv.conj (.mulRight R x) = .mulRight R (f x) := by
+  ext; simp [LinearEquiv.conj_apply]
+
+theorem linearEquivConj_mulLeftRight (f : A₁ ≃ₐ[R] A₂) (x : A₁ × A₁) :
+    f.toLinearEquiv.conj (.mulLeftRight R x) = .mulLeftRight R (Prod.map f f x) := by
+  cases x; ext; simp [LinearEquiv.conj_apply]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]:
```suggestion
@[simp] theorem linearEquivConj_mulLeft (f : A₁ ≃ₐ[R] A₂) (x : A₁) :
    f.toLinearEquiv.conj (.mulLeft R x) = .mulLeft R (f x) := by
  ext; simp [LinearEquiv.conj_apply]

@[simp] theorem linearEquivConj_mulRight (f : A₁ ≃ₐ[R] A₂) (x : A₁) :
    f.toLinearEquiv.conj (.mulRight R x) = .mulRight R (f x) := by
  ext; simp [LinearEquiv.conj_apply]

@[simp] theorem linearEquivConj_mulLeftRight (f : A₁ ≃ₐ[R] A₂) (x : A₁ × A₁) :
    f.toLinearEquiv.conj (.mulLeftRight R x) = .mulLeftRight R (Prod.map f f x) := by
  cases x; ext; simp [LinearEquiv.conj_apply]
```

**Review by Komyyy — APPROVED** [review]
Thanks

**Comment by ocfnash** [comment]
bors merge
